US06319916B1
To a solution of 1.5 g of 2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one in 20 ml of tetrahydrofuran, was added 0.5 g of lithium aluminium hydride by portion, and the mixture was heated and refluxed for 2 hours. The reaction mixture was cooled to the room temperature. To the reaction mixture were added dropwise 1 ml of water and 0.8 ml of 10% aqueous solution of sodium hydroxide, and the mixture was stirred for 6 hours at room temperature. After the resultant solid mater was removed by filtration, the filtrate was concentrated under reduced pressure, and 20 ml of dichloromethane was added to the residue. The solution was dried over anhydrous sodium sulfate, then to the solution was added 0.94 ml of acetic anhydride, the mixture was stirred for 15 minutes at room temperature. The solvent was distilled off under reduced pressure, and the resulting oily residue was purified by means of column chromatography (developing solvent: dichloromethane-ethyl acetate=5:1 (V/V)) to give 1.8 g of 4-acetyl-2,3,4,5-tetrahydro-1,4-benzoxazepine as a colorless oily substance. The compound was used in the following steps without further purification.

reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepin-5-one | 1.5 g | O1CCNC(C2=C1C=CC=C2)=O | C9H9NO2
reactant | lithium aluminium hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-acetyl-2,3,4,5-tetrahydro-1,4-benzoxazepine | 1.8 g | C(C)(=O)N1CCOC2=C(C1)C=CC=C2 | C11H13NO2
